US08648068B2
10.2 4-[4-Fluoro-2-((S)-1-methanesulfonyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
To a solution of 4-[4-fluoro-2-((S)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (110 mg) in dichloromethane (3 ml) at 0° C. was added DIPEA (55 μl) followed by methanesulfonyl chloride (25 μl) and the reaction was allowed to warm to room temperature and stirred for 2 h.

reactant | 4-[4-fluoro-2-((S)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 110 mg | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CNCCC2)S1)C | C20H21FN4O3S
reactant | DIPEA | 55 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 25 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-[4-Fluoro-2-((S)-1-methanesulfonyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CN(CCC2)S(=O)(=O)C)S1)C | C21H23FN4O5S2
